US05801287
3b) Preparation of 2,2'-bis(phenyl4-dimethylaminophenyl-phosphinomethyl)-1,1'-binaphthyl
19.87 g (25.8 mmol) of 2,2'-bis(phenyl4-dimethylaminophenyl-phosphinylmethyl)-1,1'-binaphthyl and 15.5 ml (66 mmol) of tributylamine are initially charged in 80 ml of degassed, dry o-xylene in an argon atmosphere while stirring and 9.4 ml (65 mmol) of phenyldichlorosilane are added dropwise. The mixture is subsequently heated at 145° C. for 7 hours while stirring. The reaction mixture is cooled, admixed with 50 ml of degassed 32% strength sodium hydroxide solution and the phases are separated. The organic phase is concentrated and the solid formed is filtered off and recrystallized from acetonitrile. This gives 14.3 g of colorless crystals, corresponding to a yield of 75%.

reactant | 2,2'-bis(phenyl4-dimethylaminophenyl-phosphinylmethyl)-1,1'-binaphthyl | 25.8 mmol, 19.87 g | C1(=CC=CC=C1)C(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)C([PH2]=O)(C1=CC=C(C=C1)N(C)C)C1=CC=CC=C1)([PH2]=O)C1=CC=C(C=C1)N(C)C | C50H46N2O2P2
reactant | tributylamine | 66 mmol, 15.5 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | phenyldichlorosilane | 65 mmol, 9.4 ml | C1(=CC=CC=C1)[SiH](Cl)Cl | C6H6Cl2Si
reactant | sodium hydroxide | [OH-].[Na+]
product | 2,2'-bis(phenyl4-dimethylaminophenyl-phosphinomethyl)-1,1'-binaphthyl | yield of 75% | C1(=CC=CC=C1)C(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)C(P)(C1=CC=C(C=C1)N(C)C)C1=CC=CC=C1)(P)C1=CC=C(C=C1)N(C)C | C50H46N2P2
